US08114872B2
4-Benzo[b]thiophen-7-yl-2-fluoro-5-methyl-pyridine
In a flask, combine 2-fluoro-4-iodo-5-methyl-pyridine (355 mg, 1.5 mmol), 2-benzo[b]thiophen-7-yl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (282 mg, 1.8 mmol), Pd(dppf)Cl2 (61 mg, 0.07 mmol), 2-(di-tert-butylphos-phino)biphenyl (13 mg, 0.04 mmol), sodium carbonate (2 M, 1.5 mL, 3 mmol) and THF (10 mL). Heat the mixture at 100° C. for 3 h in an oil bath. Dilute the mixture with chloroform/IPA (3/1). Wash the solution with aqueous saturated sodium chloride. Dry over sodium sulfate. Concentrate in vacuo to a dark residue. Purify by column chromatography (20% ethyl acetate in hexane) to afford the title compound (300 mg, 82%) as a yellow oil. MS (ES) m/z 244 [M+1]+.

reactant | 2-fluoro-4-iodo-5-methyl-pyridine | 1.5 mmol, 355 mg | FC1=NC=C(C(=C1)I)C | C6H5FIN
reactant | 2-benzo[b]thiophen-7-yl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.8 mmol, 282 mg | S1C2=C(C=C1)C=CC=C2B2OC(C(O2)(C)C)(C)C | C14H17BO2S
reactant | sodium carbonate | 3 mmol, 2 M, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | chloroform isopropyl alcohol | C(Cl)(Cl)Cl.C(C)(C)O
catalyst | Pd(dppf)Cl2 | 0.07 mmol, 61 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 2-(di-tert-butylphos-phino)biphenyl | 0.04 mmol, 13 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | 4-Benzo[b]thiophen-7-yl-2-fluoro-5-methyl-pyridine | 300 mg, 82% | S1C2=C(C=C1)C=CC=C2C2=CC(=NC=C2C)F | C14H10FNS
